US08895547B2
(S)-3-(5-Biphenyl-4-yl-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-ylamino)-3-phenylpropan-1-ol
Under inert gas, 1.38 ml of a 0.5 N zinc chloride solution in THF were cooled to −78° C., and 0.26 ml of a 1.8 N phenyllithium solution in dibutyl ether was added dropwise. The reaction solution was allowed to come to room temperature and stirred for 30 minutes. Then this solution was added to a solution of 60 mg of trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester and 8 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium in 1.5 ml of THF. After stirring at 60° C. for 45 minutes, the conversion was checked by LCMS and another 8 mg of the catalyst were added. After a further 2 hours at constant temperature, the same amount of the self-prepared solution of phenyllithium and zinc chloride was added once again, and the mixture was stirred at 60° C. for a further 60 minutes. After removal of the solvent under reduced pressure, the residue was dissolved in 1.5 ml of methanol, 0.15 ml of concentrated hydrochloric acid was added and the mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with 20 ml of ethyl acetate and 10 ml of water, and neutralized with sodium hydroxide solution. The organic phase was washed once again with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation, and the crude product was purified further in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic phase was dried over MgSO4 and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (35.1 mg) with a molecular weight of 464.6 g/mol (C26H28N2O4S); MS (ESI): m/e=465 (M+1-1).

reactant | phenyllithium | 1.8 N | C1(=CC=CC=C1)[Li]
reactant | trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester | 60 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(C)C | C27H37F3N2O7S2Si
solvent | THF | C1CCOC1 | C4H8O
solvent | dibutyl ether | C(CCC)OCCCC | C8H18O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.5 N | [Cl-].[Zn+2].[Cl-]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-(5-Biphenyl-4-yl-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-ylamino)-3-phenylpropan-1-ol | 35.1 mg | C1(=CC=C(C=C1)C1S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)C1=CC=CC=C1 | C26H28N2O4S
